US05852023
4-(cis-4-tert-Butylcyclohexylamino)-6-ethyl-5-iodopyrimidine
7.25 g (30 mmol) of 4-chloro-5-iodo-5-ethylpyrimidine (EP 470 600), 5.6 g (36 mmol) of cis-4-tert-butylcyclohexylamine and 6.1 g of triethylamine were heated at from 80° to 90° C. for 4 hours without solvent. After cooling, the mixture was taken up in water/toluene and the organic phase was dried and concentrated. The crude product was purified by chromatography on silica gel using petroleum ether/ethyl acetate (7:3), to give 7.4 g (56.7% of theory) of a yellow oil.

reactant | 4-chloro-5-iodo-5-ethylpyrimidine | 30 mmol, 7.25 g | ClC1N=CN=CC1(CC)I | C6H8ClIN2
reactant | cis-4-tert-butylcyclohexylamine | 36 mmol, 5.6 g | C(C)(C)(C)[C@H]1CC[C@H](CC1)N | C10H21N
reactant | triethylamine | 6.1 g | C(C)N(CC)CC | C6H15N
solvent | water toluene | O.C1(=CC=CC=C1)C
product | 4-(cis-4-tert-Butylcyclohexylamino)-6-ethyl-5-iodopyrimidine | C(C)(C)(C)[C@H]1CC[C@H](CC1)NC1=NC=NC(=C1I)CC | C16H26IN3
